US04355037
1-Formyl-4-(2,4-dichlorobenzoyl)piperidine oxime
A mixture of 105 g of 4-(2,4-dichlorobenzoyl)-1-formylpiperidine, 70 g of hydroxylamine hydrochloride, 135.0 g of ammonium acetate, 1.05 l of ethanol and 350 ml of water was stirred and heated at 138° for 40 hrs. The reaction mixture was evaporated and 2 l of water was added to the residue. The water was decanted from the oil and oil was washed two times with 500 ml water and then dissolved in about 400 ml dichloromethane. The insoluble material was collected. The dichloromethane extract was washed twice with 600 ml of water and the organic extract was evaporated. Trituration with diisopropyl ether and crystallization from acetone/ether gave 15.6 g (14.2%) of product, mp, 149°-150°.

reactant | 4-(2,4-dichlorobenzoyl)-1-formylpiperidine | 105 g | ClC1=C(C(=O)C2CCN(CC2)C=O)C=CC(=C1)Cl | C13H13Cl2NO2
reactant | hydroxylamine hydrochloride | 70 g | Cl.NO
reactant | ammonium acetate | 135.0 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 1.05 l | C(C)O | C2H6O
solvent | water | 350 ml | O | H2O
product | 1-Formyl-4-(2,4-dichlorobenzoyl)piperidine oxime | 15.6 g, 14.2% | C(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=NO | C13H14Cl2N2O2
